US04769473
1 part of 1-hydroxypyrazole is mixed thoroughly with 4 parts of potassium carbonate, and the mixture is introduced into an autoclave. Carbon dioxide is forced in at room temperature until the pressure reaches 50 bar, after which heating is carried out for 20 hours at 150° C. The reactor content is then dissolved in water, the solution is acidified with hydrochloric acid, which precipitates the 1-hydroxypyrazole-4-carboxylic acid, and the latter is filtered off and recrystallized from water. 0.68 part (45% of theory) of 1-hydroxypyrazole-4-carboxylic acid of melting point 230° C. is obtained.

reactant | 1-hydroxypyrazole | ON1N=CC=C1 | C3H4N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-hydroxypyrazole-4-carboxylic acid | 45% | ON1N=CC(=C1)C(=O)O | C4H4N2O3
